US07491713B2
Step D. 4-Piperidin-4-ylpyridazin-3(2H)-one
A solution of benzyl 4-(3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxylate (0.90 mg, 2.88 mmol) and 10% Pd/C (500 mg) in EtOH (25 mL), was hydrogenated under a balloon for 4 h. The reaction was filtered through Celite with more EtOH and concentrated to afford the title compound (465 mg). MS 180.1 (M+1).

reactant | benzyl 4-(3-oxo-2,3-dihydropyridazin-4-yl)piperidine-1-carboxylate | 2.88 mmol, 0.90 mg | O=C1NN=CC=C1C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C17H19N3O3
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | 4-Piperidin-4-ylpyridazin-3(2H)-one | 465 mg | N1CCC(CC1)C=1C(NN=CC1)=O | C9H13N3O
